Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Cholangitis, Biliary obstruction
Choledocholithiasis.
Biliary obstruction.
Postprocedural duodenal perforation.
Retroperitoneal/peritoneal abscess.

 
Major Surgical or Invasive Procedure:
1. Choledochoduodenostomy biliary bypass.
2. Open common bile duct exploration.
3. Extensive lysis of adhesions.
4. Drainage of retroperitoneal abscess.
5. Gastrostomy tube placement.

 
History of Present Illness:
The patient is a ___ year old female who was initially admitted 
to ___ with abdominal pain, dark urine, and 
fever. The patient had evaluation performed including CT Abdomen 
which revealed intra and extrahepatic biliary dilatation with 
hyperdensity located within the CBD presumed to be an impacted 
stone. The patient was treated with Zosyn for cholangitis. ERCP 
there was attempted but unsuccessful for which the patient was 
transferred to ___. Attempt at ERCP today was similarly 
unsuccessful. Cannulation of the ampulla was performed but the 
biliary tree could not subsequently be wired. The patient was 
subsequently sent to ___ for PTC drainage. Per report the patient 
had successful placement of external drain but wiring into the 
small bowel was unsuccessful from obstruction. The patient is 
now admitted to the medical service for ongoing management.
    The patient confirms history as above. He reports 
intermittent symptoms of abdominal pain in his RUQ radiating to 
his back, similar to that which first brought him to the 
hospital. He reports feeling weak, nauseous, and now with 
intermittent pain across his right shoulder and upper chest 
since returning from ___.
 
Past Medical History:
s/p ccy
s/p removal of basal cell cancer on chest
 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: 97.8, 160/72, 72, 20, 95% 2L NC (repeat BP after 
morphine for pain, 110/66)
General: Patient is an elderly male, appears younger than stated 
age. Appears to be in mild discomfort but NAD
HEENT: NCAT, EOMI, sclera mildly icteric
Neck: No JVD
Chest: Small bibasilar crackles, left > right
Cor: RRR, no M/R/G
Abdomen: healed ccy scar. + PTC drain with brown fluid in bag. 
Mild/mod RUQ tenderness, no guard or rebound. Remainder of 
abdomen Soft, non-tender
Ext: no edema
 
Pertinent Results:
Admission labs: Labs:
138|103| 9 < 100   
3.4| 31|0.7  
Ca: 8.2 Mg: 1.9 P: 2.1
ALT: 126 AP: 279 Tbili: 2.9   
AST: 38 
  
8.2 > 33.5 < 251 
       
INR 1.2 ___  13.7  PTT 23.7
CK MB 3  Trop .03 (___)

Pathology: pigment type calculi

Cultures:
___  C diff : neg
___  Cath Tip No sig growth (prelim)
___  URINE Cx NG
___  BLOOD Cx P
___  BLOOD Cx P
___  SWAB E COLI pan ___

___ CTA:  
1. No drainable fluid collection, definable abscess or biloma. 
Extensive 
fat stranding in RUQ likely secondary ro recent surgery.   
2. Status post choledochoduodenostomy biliary bypass with 
expected 
pneumobilia. 
3. Persistent right greater than left pleural effusions with 
associated 
compressive atelectasis, moderate-sized hiatal hernia, colonic 
diverticulosis, 
vascular calcifications, and prostatic enlargement. 
  

 
Brief Hospital Course:
___: The patient failed multiple ERCP events and was 
unable to 
___: The patient underwent a choledochoduodenostomy biliary 
bypass, open common bile duct exploration, extensive lysis of 
adhesions, drainage of retroperitoneal abscess and a gastrostomy 
tube placement. He tolerated the procedure well. He was 
empirically started on an 8 day course of Zosyn for EColi in 
bile. The patient was transferred to the SICU post-op for fluid 
management and observation.
___: The patient was started on TPN. Transferred to the 
floor 
___: Pt kept NPO, IVF with NGT in place. 
___: Foley dc'd without problems voiding.  G tube to gravity.  
TPN  continued with sips for comfort.  
___ consulted.  PTC fell out with follow up LFTs without 
elevation.  No evidence of bleeding from site.  
___ G tube clamped.  Normal follow up LFTs after PTC pulled 
out.  Slight leakage of site monitored and dressed with small 
ostomy bag around former ___ site. 
___:  Spiked to 101.4, pain c/w diaphragmatic irritation on R; 
CTA - no obvious collection; CXR-bibasilar atelectasis; UA neg. 
Vancomycin and Cipro stated empirically.Pt advanced to clears in 
am.  NPO for fever workup and CT scan then brought back to sips. 

___: Afebrile for 24 hours.  Advanced from sips to clears. 
Ambulating with physical therapy. JP amylase of 7, drain 
removed. CVL removed with no growth from catheter tip. C Diff 
sent sue to 5 loose BM, returned negative. 
___: Advanced from clears to fulls.  Well tolerated. 
Ambulating regularly. Afebrile. Discussion with family regarding 
home services and importance of help at home to help pt care for 
wife> Pt's niece to stay with him for help around the house.
___: Advanced to regular diet.  Staples removed. Pt discharged 
home with ___ and home ___ services. 

 
Medications on Admission:
B-12 supplementation
 
Discharge Medications:
1. Hydrocodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Choledocholithiasis.
2. Biliary obstruction.
3. Postprocedural duodenal perforation.
4. Retroperitoneal/peritoneal abscess.

 
Discharge Condition:
VSS, tolerating a regular diet, Pain well controlled on PO pain 
meds, Ambulating.

 
Discharge Instructions:
Incision Care:  Keep clean and dry. 
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.
.
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. 
* Signs of dehydration include dry mouth, rapid heartbeat or 
feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your skin, or the whites of your eyes become yellow.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 
back.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication.  You may have constipation when taking 


narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  
* Continue to ambulate several times per day.
* No heavy ___  lbs) until your follow up appointment.

 
Followup Instructions:
___